US05698016
Preparation of 2-amino-2-methyl-1,3-propanediol dioleate
A mixture of 2-amino-2-methyl-1,3-propanediol (5.26 g), oleic acid (33.4 mL) and p-toluenesulfonic acid monohydrate (11.0 g) in toluene (75 mL) was refluxed under nitrogen. Water was separated from the distillate in a Barrett distilling receiver. When the theoretical amount of water (3.3 g) was collected, the heating was stopped and the toluene removed in vacuo on a rotary evaporator. The product was a thick yellow oil.

reactant | 2-amino-2-methyl-1,3-propanediol | 5.26 g | NC(CO)(CO)C | C4H11NO2
reactant | oleic acid | 33.4 mL | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | p-toluenesulfonic acid monohydrate | 11.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 2-amino-2-methyl-1,3-propanediol dioleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(COC(CCCCCCC\C=C/CCCCCCCC)=O)(C)N | C40H75NO4
